US04261892
Preparation of 3-[4-tert-butyl-6-(1,1,3,3-tetramethylbutylamino)-s-triazin- 2-yl]-3-azabicyclo[3.2.2]nonane
Eight grams (0.022 mole) of 3-[4-chloro-6-(1,1,3,3-tetramethylbutylamino)-s-triazin-2-yl]-3-azabicyclo[3.2.2]nonane and 23 ml. (0.22 mole) of t-butylamine is placed in a glass liner in a bomb and then heated in an oil bath maintained at 185°-200° C. for about 40 hours. After cooling, the contents of the bomb are rinsed with chloroform and water into a flask and 50 ml. of 10 N NaOH is added. The solution is then evaporated in vacuo and the aqueous solution remaining is extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulfate, filtered through Magnesol® and the Magnesol® washed with chloroform. Removal of solvent in vacuo and recrystallization from acetone gives 5.8 g. of colorless crystals, m.p. 163.5°-167.5° C.

reactant | 3-[4-chloro-6-(1,1,3,3-tetramethylbutylamino)-s-triazin-2-yl]-3-azabicyclo[3.2.2]nonane | 0.022 mole, Eight grams | ClC1=NC(=NC(=N1)NC(CC(C)(C)C)(C)C)N1CC2CCC(C1)CC2 | C19H32ClN5
reactant | t-butylamine | 0.22 mole | C(C)(C)(C)N | C4H11N
product | 3-[4-tert-butyl-6-(1,1,3,3-tetramethylbutylamino)-s-triazin- 2-yl]-3-azabicyclo[3.2.2]nonane | C(C)(C)(C)C1=NC(=NC(=N1)NC(CC(C)(C)C)(C)C)N1CC2CCC(C1)CC2 | C23H41N5
